US05428040
3-Bromothiophenol (10 g, 52.9 mmmol) was dissolved in acrylonitrile (11.28 g, 213 mmol). Triton B (1 mL) was added, at which time the reaction mixture became exothermic and began to reflux without added heat. The mixture was allowed to cool to room temperature, poured into cold aqueous sodium hydroxide (2%; 200 mL), and extracted with diethyl ether. The organic layer was dried, filtered and evaporated to provide 12 g (93%) of 3-[(3-bromophenyl)thio]propionitrile as a tan oil; 1H NMR (CDCl3) δ7.54 (s, 1H), 7.42 (d, 1H), 7.32 (d, 1H), 7.25-7.15 (m, 2H), 3.15 (t, 2H), 2.62 (t, 2H); Mass spectrum m/z 261, 259 (M+NH4).

reactant | 3-Bromothiophenol | 10 g | BrC=1C=C(C=CC1)S | C6H5BrS
reactant | acrylonitrile | 213 mmol, 11.28 g | C(C=C)#N | C3H3N
solvent | sodium hydroxide | 200 mL | [OH-].[Na+]
product | 3-[(3-bromophenyl)thio]propionitrile | 12 g, 93% | BrC=1C=C(C=CC1)SCCC#N | C9H8BrNS
